US04337208
A mixture of 46 grams (0.806 mole) of powdered iron (97.8% Fe) (100% through a 100 mesh screen), 292 grams (2.014 moles) of isooctanoic acid (acid number, 387), a catalyst solution prepared by dissolving 10 grams of ammonium fluoride and 5 grams of ammonium formate in 25 grams of water, and 170 grams of mineral spirits was sparged with air at the rate of 30 liters per hour until the exotherm had subsided. Sparging with air was continued while the reaction mixture was heated at 95° C. for 5 hours. It was then heated to 135° C. under vacuum to remove water from it, filtered, and diluted with mineral spirits. There was obtained a solution of iron isooctanoate in mineral spirits that contained 9.0% of iron.

reactant | iron | 0.806 mole, 46 grams | [Fe] | Fe
reactant | isooctanoic acid | 2.014 moles, 292 grams | C(CCCCC(C)C)(=O)O | C8H16O2
reactant | ammonium fluoride | 10 grams | [F-].[NH4+]
reactant | ammonium formate | 5 grams | C(=O)[O-].[NH4+]
solvent | water | 25 grams | O | H2O
product | iron isooctanoate | C(CCCCC(C)C)(=O)[O-].[Fe+2].C(CCCCC(C)C)(=O)[O-] | InChI=1S/2C8H16O2.Fe/c2*1-7(2)5-3-4-6-8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
